US05412117
To a mixture of 0.5 g of 6-cyano-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-3-one, 0.39 g of potassium t-butoxide, and 5 ml of dried N,N-dimethylformamide was added dropwise a mixture of 0.42 g of phenyl isocyanate and 1.5 ml of dried N,N-dimethylformamide while stirring under cooling with ice. After stirring for 4 hours under ice-cooling, ice-water was added thereto, and the mixture was made acidic with acetic acid and extracted with diethyl ether. The ether layer was washed with water and dried over sodium sulfate. Diethyl ether was removed by distillation, and the residue was purified by silica gel column chromatography (developing solution: CH2Cl2) to obtain 0.17 g of N-phenyl-6-cyano-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-4-carboxamide represented by formula shown below.

reactant | 6-cyano-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-3-one | 0.5 g | C(#N)C=1C=CC2=C(CC(C(O2)(C)C)=O)C1 | C12H11NO2
reactant | potassium t-butoxide | 0.39 g | CC(C)([O-])C.[K+]
reactant | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
reactant | phenyl isocyanate | 0.42 g | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | N,N-dimethylformamide | 1.5 ml | CN(C=O)C | C3H7NO
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N-phenyl-6-cyano-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-4-carboxamide | 0.17 g | C1(=CC=CC=C1)NC(=O)C1=C(C(OC2=C1C=C(C=C2)C#N)(C)C)O | C19H16N2O3
